US20010019995A1
A mixture of 5.9 g of 2-bromo-3-hexyloxypropene(26.7 mmol), 2.05 g of N,N′-dibenzyl-ethane-1,2-bis-(diethylammonium bromide), 10.5 g of 45% potassium hydroxide (84 mmol), 23.3 g of bromoform (92 mmol) and 70 g of methylene chloride were rapidly stirred at room temperature for two days. When the reaction stalled, the reaction mixture was transferred to a separatory funnel and washed with water. The methylene chloride phase was transferred to a flask and treated with the same amount of the phase transfer catalyst and 45% potassium hydroxide, then stirred at room temperature for an additional 3 days. The workup-recharge sequence was repeated once more, and the reaction was stirred one more day at room temperature. The reaction mixture was washed with water, the methylene chloride phase was dried with magnesium sulfate, and then stripped. The product was chromatographed on silica gel with 20% ethyl acetate 80% hexane to give 1.35 g of 87% pure 1,1,2-tribromo-2-(hexyloxymethyl)cyclopropane.

reactant | 2-bromo-3-hexyloxypropene | 26.7 mmol, 5.9 g | BrC(=C)COCCCCCC | C9H17BrO
reactant | potassium hydroxide | 84 mmol, 10.5 g | [OH-].[K+]
reactant | bromoform | 92 mmol, 23.3 g | C(Br)(Br)Br | CHBr3
solvent | methylene chloride | 70 g | C(Cl)Cl | CH2Cl2
product | 1,1,2-tribromo-2-(hexyloxymethyl)cyclopropane | 1.35 g, 87% | BrC1(C(C1)(COCCCCCC)Br)Br | C10H17Br3O
